US03935209
3.4 G. of 2-amino-4-mercapto-1-nitrobenzene is dissolved in 40 ml. of dimethylformamide under nitrogen and treated at 20°-25°C with 0.5 g. of 100% sodium hydride. After 1 hour, 2.8 g. of cuprous oxide and 4.0 g. of 3-bromothiophene are added. The mixture is heated in an oil bath for 5 hours at 140°-150°C, cooled, diluted with water, and extracted with chloroform. The chloroform solution is passed through a silica gel column and the eluate evaporated to yield 2-amino-4-(3-thienylthio)-1-nitrobenzene.

reactant | 2-amino-4-mercapto-1-nitrobenzene | NC1=C(C=CC(=C1)S)[N+](=O)[O-] | C6H6N2O2S
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | sodium hydride | [H-].[Na+]
reactant | 3-bromothiophene | BrC1=CSC=C1 | C4H3BrS
solvent | water | O | H2O
product | 2-amino-4-(3-thienylthio)-1-nitrobenzene | NC1=C(C=CC(=C1)SC1=CSC=C1)[N+](=O)[O-] | C10H8N2O2S2
